US07700594B2
To a solution of 1-[(E)-2-(6-bromo-3-methoxy-2-nitrophenyl)vinyl]pyrrolidine (1.3 g, 3.97 mmol) in THF (6 mL) and methanol (6 mL) was added Raney Ni (≈500 mg) followed by hydrazine (0.19 mL). (CAUTION: Exothermic reaction with vigorous gas evolution). Hydrazine (0.19 mL) was added again, two times, after 30 min and 1 h. The reaction was stirred at 45° C. for 2 h, filtered through a pad of celite. The filtrate was concentrated in vacuo and the residue purified by chromatography over silica gel eluting with EtOAc/hexane to afford pure 4-bromo-7-methoxy-1H-indole. 1H NMR (400 MHz, CDCl3) δ=3.94 (s, 3H), 6.52 (d, J=8.08 Hz, 1H), 6.56 (dd, J=3.16, 2.40 Hz, 1H), 7.17 (d, J=8.08 Hz, 1H), 7.22 (t, J=2.78 Hz, 1H) and 8.47 (br. s., 1H); MS (ES+): m/z 226.12 [MH+].

reactant | 1-[(E)-2-(6-bromo-3-methoxy-2-nitrophenyl)vinyl]pyrrolidine | 3.97 mmol, 1.3 g | BrC1=CC=C(C(=C1/C=C/N1CCCC1)[N+](=O)[O-])OC | C13H15BrN2O3
reactant | hydrazine | 0.19 mL | NN | H4N2
reactant | Hydrazine | 0.19 mL | NN | H4N2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
catalyst | Ni | ≈500 mg | [Ni] | Ni
product | 4-bromo-7-methoxy-1H-indole | BrC1=C2C=CNC2=C(C=C1)OC | C9H8BrNO
